US07148234B2
STEP 1. trans-3-Phenylcyclobutyl benzoate
To a stirred solution of cis-3-phenylcyclobutanol (Eckehard, V. D.; et al. Chem. Ber., 1993, 126, 2759., 4.6 g, 30.2 mmol), triphenylphosphine (3.3 g, 59.1 mmol) and benzoic acid (7.6 mg, 62.3 mmol) was added diethyl azodicarboxylate (DEAD) (10.9 g, 62.3 mmol) at room temperature. The resulting mixture was stirred at room temperature for 40 min, then the mixture was concentrated. The residue was dissolved in diethyl ether (100 mL) and washed with saturated aqueous sodium bicarbonate (50 mL), water (50 mL), and brine (50 mL). The organic layer was dried (Na2SO4), and concentrated. Purification by flash column chromatography on silica gel eluting with hexane/ethyl acetate (10:1) to afford 6.52 g (86%) of the title compound as a pale yellow oil: 1H-NMR (CDCl3) δ 7.71–7.20 (10H, m), 5.49–5.41 (1H, m), 3.82–3.72 (1H, m), 2.78–2.64 (4H, m).

reactant | cis-3-phenylcyclobutanol | 30.2 mmol, 4.6 g | C1(=CC=CC=C1)[C@H]1C[C@H](C1)O | C10H12O
reactant | triphenylphosphine | 59.1 mmol, 3.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | benzoic acid | 62.3 mmol, 7.6 mg | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | diethyl azodicarboxylate | 62.3 mmol, 10.9 g | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
product | trans-3-Phenylcyclobutyl benzoate | 6.52 g, 86% | C(C1=CC=CC=C1)(=O)O[C@@H]1C[C@H](C1)C1=CC=CC=C1 | C17H16O2
